US20010056185A1
a) (±)-Methyl N-(3,5-dichlorobenzyl)prolinate
To methyl prolinate HCl (0.5 g), K2CO3 (1.25 g) and 3,5-dichlorobenzylchloride (0.59 g) in DMF (5 mL) was added tetrabutylammonium iodide (cat). The solution was stirred overnight, water was added, and the mixture was extracted with ethyl acetate. The organic layer was dried (Na2SO4), solvent was removed under reduced pressure, and silica gel flash chromatography (0.5% methanol/CH2Cl2) yielded the desired product (0.65 g). ES(+) MS m/e=288.3 (M+H).

reactant | methyl prolinate HCl | 0.5 g | Cl.N1[C@H](C(=O)OC)CCC1
reactant | K2CO3 | 1.25 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3,5-dichlorobenzylchloride | 0.59 g | ClC=1C=C(CCl)C=C(C1)Cl | C7H5Cl3
reactant | water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | tetrabutylammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (±)-Methyl N-(3,5-dichlorobenzyl)prolinate | 0.65 g | ClC=1C=C(CN2[C@H](C(=O)OC)CCC2)C=C(C1)Cl | C13H15Cl2NO2
